data/mechanism_extracts/JACS/10.1021_ja016885b.json
{"doi": "10.1021_ja016885b", "journal": "JACS", "is_review": false, "rxn_class_summary": "Electrocatalytic intermolecular formal [2+2] cycloaddition between aryl enol ethers and alkenes (including allyl-TMS and nonactivated alkenes) to give substituted cyclobutanes via anodic oxidation", "mechanism_family": ["radical_anodic", "radical_cation", "cation_initiated", "electrocatalysis_outer_sphere"], "electrochemical_role": "Anodic single-electron oxidation of the electron-rich (4-methoxyphenyl) enol ether to its radical cation, which initiates C-C bond formation with a neutral alkene; the product radical cation is regenerated/turned over by intermolecular disproportionation with starting enol ether (chain-like, sub-stoichiometric charge: ~0.5 F/mol)", "key_intermediates": [{"name": "4-methoxyphenyl enol ether radical cation (from 3)", "smiles": null, "role": "reactive"}, {"name": "open-chain distonic radical cation after C-C bond formation with allyl-TMS (β-silyl carbocation / C-radical hybrid)", "smiles": null, "role": "transient"}, {"name": "cyclobutane radical cation bearing methoxyphenyl group (precursor to 5)", "smiles": null, "role": "transient"}, {"name": "neutral trans-cyclobutane product 5", "smiles": "COc1ccc(C2(OC)CC2C[Si](C)(C)C)cc1", "role": "reactive"}], "electron_flow": "The anode oxidizes the 4-methoxyphenyl enol ether to a radical cation, which adds across the allyl-TMS (or other alkene) to give an acyclic distonic radical cation; ring-closure forms a cyclobutane radical cation, which is reduced back to neutral product by intermolecular electron transfer (disproportionation) from another enol ether, propagating the chain.", "rate_determining_step": "Initial anodic SET oxidation of the methoxyphenyl-substituted enol ether (governed by Eox; only the 4-MeO-aryl substrate 3 reacts, not n-pentyl 1 or phenyl 2)", "probe_reagents": [{"name": "on/off current interval electrolysis (stair-step potential application)", "smiles": null, "purpose": "redox_probe", "observation": "Product accumulates only during current application and is essentially constant during off intervals over 16 h, consistent with electrochemical initiation rather than a long-lived non-electrochemical chain"}, {"name": "dark control (electrolysis without light)", "smiles": null, "purpose": "other", "observation": "Product 5 forms equally under dark conditions, ruling out a photochemical [2+2] pathway"}, {"name": "pre-electrolyzed electrolyte then substrate addition (no current)", "smiles": null, "purpose": "intermediate_trap", "observation": "No product formed, excluding a long-lived electrogenerated oxidant doing the chemistry"}, {"name": "oxidation potential screen of enol ethers 1-3", "smiles": null, "purpose": "redox_probe", "observation": "Only 3 (Eox = 1.39 V, 4-MeO-C6H4) gives cycloadduct; 1 (1.48 V) and 2 (1.43 V) give none, showing the methoxyphenyl group is required to access the radical cation under these conditions"}, {"name": "nOe analysis of 5", "smiles": null, "purpose": "other", "observation": "All-trans stereochemistry of the cyclobutane established, consistent with stepwise (radical cation) rather than concerted [2+2]"}, {"name": "o-methoxyphenyl variant 12", "smiles": null, "purpose": "other", "observation": "Also gives cycloadducts 13/14, supporting role of methoxyaryl in intramolecular disproportionation step"}], "evidence_types_used": ["on/off_light_or_current", "cyclic_voltammetry", "isolation_of_intermediate", "other"], "evidence_strength": "medium", "notes": "Authors explicitly invoke intramolecular disproportionation between the cyclobutane radical cation and the pendant methoxyphenyl group to regenerate the enol-ether radical cation (Scheme 5), explaining catalytic turnover at ~0.5 F/mol. A concerted [2+2] is excluded by trans stereochemistry and by the dark control. Reaction fails without the electron-rich aryl group, indicating the aryl substituent is essential both for accessible Eox and for the redox relay step."}
